US07786110B2
1-Bromo-3-methyl-butan-2-one (10.5 g, 64 mmol, prepared as described in Org. Syn. Coll. Vol. 6, p. 193 (1988)) was added to a stirring slurry of thiourea (4.601 g, 60 mmol) in 20 mL EtOH. The reaction mixture was heated to reflux for 90 minutes, then cooled and concentrated under reduced pressure. The residue was dissolved in water, and the resulting solution was diluted with concentrated aqueous NaOH until pH was adjusted to about 12. The mixture was extracted with diethyl ether, and the combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure to give 4-isopropyl-thiazol-2-ylamine (7.8 g) as an oil.

reactant | 1-Bromo-3-methyl-butan-2-one | 64 mmol, 10.5 g | BrCC(C(C)C)=O | C5H9BrO
reactant | thiourea | 60 mmol, 4.601 g | NC(=S)N | CH4N2S
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-isopropyl-thiazol-2-ylamine | 7.8 g | C(C)(C)C=1N=C(SC1)N | C6H10N2S
